### PR TITLE
[Merged by Bors] - feat(NumberTheory/LSeries): add positivity and real-valuedness lemmas for Riemann zeta

### PR DESCRIPTION
**Pull request by cameronfreer**
Add lemmas about the Riemann zeta function for real arguments greater than 1:

- `riemannZeta_pos_of_one_lt`: `riemannZeta x` is positive in `ComplexOrder` for real `x > 1`
- `riemannZeta_re_pos_of_one_lt`: the real part of `riemannZeta x` is positive for real `x > 1`
- `riemannZeta_im_eq_zero_of_one_lt`: `riemannZeta x` has zero imaginary part for real `x > 1`

The positivity result follows from `LSeries.positive`, using that the L-series of the constant function 1 equals the Riemann zeta function on the domain of convergence. The key insight is that `0 < z` in `ComplexOrder` simultaneously encodes `z.re > 0` and `z.im = 0` (via `Complex.pos_iff`), so positivity implies real-valuedness.

This adds a new import of `Mathlib.NumberTheory.LSeries.Positivity` to `Dirichlet.lean`. The `ComplexOrder` scope is limited to a dedicated nested section to avoid affecting typeclass inference elsewhere.

This generalizes `riemannZeta_even_im_eq_zero` from the [Sphere Packing project](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/blob/7d4461f1/SpherePacking/ModularForms/Eisenstein.lean#L836-L846), which is now a corollary.

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 1]
```diff
@@ -325,6 +326,30 @@ lemma LSeries_one_ne_zero_of_one_lt_re {s : ℂ} (hs : 1 < s.re) : L 1 s ≠ 0 :
...
+  simpa [LSeries.abscissaOfAbsConv_one] using (by exact_mod_cast hx : (1 : EReal) < x)
+
+/-- The real part of the Riemann zeta function is positive for real arguments greater than 1. -/
+lemma riemannZeta_re_pos_of_one_lt {x : ℝ} (hx : 1 < x) : 0 < (riemannZeta x).re :=
+  (Complex.pos_iff.mp (riemannZeta_pos_of_one_lt hx)).1
+
+/-- The Riemann zeta function is real-valued for real arguments greater than 1. -/
+lemma riemannZeta_im_eq_zero_of_one_lt {x : ℝ} (hx : 1 < x) : (riemannZeta x).im = 0 := by
+  have hz : 0 < riemannZeta x := riemannZeta_pos_of_one_lt hx
+  exact (Complex.pos_iff.mp hz).2.symm
```
Comment (jcommelin) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean]: In the lemma above, you inlined `hz`. Is there a reason you don't do that here?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean (hunk 1 above)
Comment (cameronfreer) [reply Mathlib/NumberTheory/LSeries/Dirichlet.lean]: No particular reason; I just hadn't noticed the inconsistency because of the order in which I was editing the file. Thanks; updated in 89a2d2c11a49e6de61f13dd497ef9a381e332fa3

**Comment by cameronfreer** [comment]
Basic question about the mechanics of PRs: I think @jcommelin's comment (and in any case, my code change) happened after the mathlib-bors notification that I can approve it. Is that option still delegated to me (despite the subsequent change) and is this PR waiting on me to merge it, or did I trigger a new round of review with my revision, or do I need another round of review but this needs to be explicitly triggered in some way that I haven't yet done? Thanks!
